US06008230
A mixture of 4-chloromethyl-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline (150 mg) and N-methylethylenediamine (141 mg) in 1,2-dimethoxyethane was stirred for 2 hours at 70° C. The mixture was partitioned between dichloroethane and water, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to give a residue containing 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-[(2-methylaminoethyl-amino)methyl]quinoline. To the solution of the obtained residue in 1,3-dimethyl-2-imidazolidinone was added 1,1'-carbonyldiimidazole (309 mg), and the mixture was stirred for 30 minutes at 70° C., for 1 hour at 100° C. and for 1 hour at 150° C. Water was added to the mixture, and the resulting precipitates were collected by filtration. The residue was purified by preparative thin layer chromatography (methanol-dichloromethane) and crystallized from isopropyl alcohol to give 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(3-methyl-2-oxoimidazolidin-1-ylmethyl)quinoline (28.6 mg).

reactant | 4-chloromethyl-8-(2,6-dichlorobenzoylamino)-3-ethylquinoline | 150 mg | ClCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)CC | C19H15Cl3N2O
reactant | N-methylethylenediamine | 141 mg | CNCCN | C3H10N2
reactant | 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-[(2-methylaminoethyl-amino)methyl]quinoline | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CC)CNCCNC)C(=CC=C1)Cl | C22H24Cl2N4O
reactant | 1,1'-carbonyldiimidazole | 309 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | 1,3-dimethyl-2-imidazolidinone | CN1C(N(CC1)C)=O | C5H10N2O
solvent | Water | O | H2O
product | 8-(2,6-dichlorobenzoylamino)-3-ethyl-4-(3-methyl-2-oxoimidazolidin-1-ylmethyl)quinoline | 28.6 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=C(C=NC23)CC)CN2C(N(CC2)C)=O)C(=CC=C1)Cl | C23H22Cl2N4O2
